US09376422B2
To a stirred solution of methyl 5-chloro-2-methyl-3-((tetrahydro-2H-pyran-4-yl)amino)benzoate (0.5 g, 1.76 mmol) in dry CAN (15 mL), cesium carbonate (1.2 g, 3.68 mmol) and ethyl iodide (2.7 g, 17.3 mmol) were added and the resulting reaction mixture was heated at 80° C. for 18 h. On completion, the mixture was cooled to room temperature and filtered with the residue washed with ethyl acetate. The filtrate was concentrated and then purified by column chromatography to afford desired methyl 5-chloro-3-(ethyl(tetrahydro-2H-pyran-4-yl)amino)-2-methylbenzoate (0.180 g, 34%).

reactant | methyl 5-chloro-2-methyl-3-((tetrahydro-2H-pyran-4-yl)amino)benzoate | 1.76 mmol, 0.5 g | ClC=1C=C(C(=C(C(=O)OC)C1)C)NC1CCOCC1 | C14H18ClNO3
reactant | cesium carbonate | 3.68 mmol, 1.2 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | ethyl iodide | 17.3 mmol, 2.7 g | C(C)I | C2H5I
solvent | CAN | 15 mL | O=[N+]([O-])[O-].[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[Ce+4].[NH4+].[NH4+]
product | methyl 5-chloro-3-(ethyl(tetrahydro-2H-pyran-4-yl)amino)-2-methylbenzoate | 0.180 g, 34% | ClC=1C=C(C(=C(C(=O)OC)C1)C)N(C1CCOCC1)CC | C16H22ClNO3
